US07851463B2
5 g of 3-fluoro-propanol (64.03 mmol) and 18 ml of triethylamine (129.32 mmol) were dissolved in 50 ml of dichloromethane. At 0-5° C., 12.9 g toluene-4-sulfonylchloride (67.66 mmol) were added and the reaction mixture stirred at room temperature for 18 h. Standard work-up yielded 13.7 g of toluene-4-sulfonic acid 3-fluoro-propyl ester.

reactant | 3-fluoro-propanol | 64.03 mmol, 5 g | FCCCO | C3H7FO
reactant | triethylamine | 129.32 mmol, 18 ml | C(C)N(CC)CC | C6H15N
reactant | toluene-4-sulfonylchloride | 67.66 mmol, 12.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | toluene-4-sulfonic acid 3-fluoro-propyl ester | 13.7 g | FCCCOS(=O)(=O)C1=CC=C(C=C1)C | C10H13FO3S
